US04990681
Isobutylbenzene (IBB) (10.2 lb/hr) and a solution of HF containing 13 wt % HOAc and 12 wt % acetyl fluoride (AcF) (153 lb/hr) were fed into reactor 1 through line 4. The mixture was reacted at 60° C. for 1.5 hrs to produce the desired 4-isobutylacetophenone product.

reactant | Isobutylbenzene | C(C(C)C)C1=CC=CC=C1 | C10H14
reactant | acetyl fluoride | C(C)(=O)F | C2H3FO
solvent | HOAc | CC(=O)O | C2H4O2
product | 4-isobutylacetophenone | CC(C)CC1=CC=C(C=C1)C(=O)C | C12H16O
